US08536210B2
Step 2: 2-Methyl-5-(4-methylpiperazin-1-yl)pyridazin-3(2H)-one
To a mixture of 4-chloro-2-methyl-5-(4-methylpiperazin-1-yl)pyridazin-3(2H)-one (4.85 g, 20 mmol) and 10% Pd/C catalyst (1.14 g) in methanol (100 ml) was added ammonium formate (2.90 g, 46 mmol), and the mixture was refluxed under argon with TLC monitoring (dichloromethane:methanol (9:1)). Further portions of ammonium formate were added until the starting material was completely consumed. The catalyst was filtered off and washed with methanol, then the solvent was evaporated under reduced pressure. The residue was taken up in water (30 ml) and extracted with dichloromethane (4×40 ml). The combined extracts were washed with water, dried (Na2SO4) and evaporated. The crude product was purified by recrystallization from ethyl acetate:light petroleum.

reactant | 4-chloro-2-methyl-5-(4-methylpiperazin-1-yl)pyridazin-3(2H)-one | 20 mmol, 4.85 g | ClC=1C(N(N=CC1N1CCN(CC1)C)C)=O | C10H15ClN4O
reactant | ammonium formate | 46 mmol, 2.90 g | C(=O)[O-].[NH4+]
reactant | dichloromethane methanol | ClCCl.CO
catalyst | Pd/C | 1.14 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 2-Methyl-5-(4-methylpiperazin-1-yl)pyridazin-3(2H)-one | CN1N=CC(=CC1=O)N1CCN(CC1)C | C10H16N4O
